US06048884
1.52 g of t-butyl (S)-N-[2-(4-aminophenyl)ethyl]-N-(2-hydroxy-3-phenoxypropyl)carbamate and 0.23 g of propionaldehyde were subjected to a reductive amination reaction to obtain 1.69 g of t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-(4-propylaminophenyl)ethyl]carbamate.

reactant | t-butyl (S)-N-[2-(4-aminophenyl)ethyl]-N-(2-hydroxy-3-phenoxypropyl)carbamate | 1.52 g | NC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@@H](COC1=CC=CC=C1)O | C22H30N2O4
reactant | propionaldehyde | 0.23 g | C(CC)=O | C3H6O
product | t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-(4-propylaminophenyl)ethyl]carbamate | 1.69 g | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)NCCC)COC1=CC=CC=C1 | C25H36N2O4
